US09428528B2
Preparation of 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(methylsulfonamidomethyl)thiophen-2-yl)phenyl)propan-2-yl)acetamide
To a suspension of N-((1R,2S)-1-(4-(5-(aminomethyl)thiophen-2-yl)phenyl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide (150 mg, 0.383 mmol) in dichloromethane is added triethylamine (160 μL, 1.15 mmol) followed by methanesulfonyl chloride (30 μL, 0.383 mmol). Resulting yellow solution is stirred at room temperature for 30 minutes. The reaction is concentrated then purified using HPLC to give the title compound (99 mg): 1HNMR (400 MHz, DMSO-d6): δ 8.58 (d, 1H), 7.71 (t, 1H), 7.55 (d, 2H), 7.37 (d, 2H), 7.33 (d, 2H), 7.01 (d, 1H), 6.51 (s, 1H), 5.95 (br s, 1H), 4.85 (d, 1H), 4.71-4.52 (m, 1H), 4.44-4.13 (m, 4H), 2.89 (s, 3H).

reactant | N-((1R,2S)-1-(4-(5-(aminomethyl)thiophen-2-yl)phenyl)-3-fluoro-1-hydroxypropan-2-yl)-2,2-dichloroacetamide | 0.383 mmol, 150 mg | NCC1=CC=C(S1)C1=CC=C(C=C1)[C@H]([C@@H](CF)NC(C(Cl)Cl)=O)O | C16H17Cl2FN2O2S
reactant | triethylamine | 1.15 mmol, 160 μL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 0.383 mmol, 30 μL | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | ClCCl | CH2Cl2
product | 2,2-dichloro-N-((1R,2S)-3-fluoro-1-hydroxy-1-(4-(5-(methylsulfonamidomethyl)thiophen-2-yl)phenyl)propan-2-yl)acetamide | 99 mg | ClC(C(=O)N[C@@H]([C@@H](C1=CC=C(C=C1)C=1SC(=CC1)CNS(=O)(=O)C)O)CF)Cl | C17H19Cl2FN2O4S2
